US08754100B2
Synthesis of (2-trifluoromethylphenyl)carbamic acid hydrazide
Phenyl (2-trifluoromethylphenyl)carbamate (12.1 g) was dissolved in ethanol (150 mL). Hydrazine monohydrate (16.7 mL) was added and the mixture was heated under reflux for 2.25 hours. The reaction solution was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (7.5 g).

reactant | Phenyl (2-trifluoromethylphenyl)carbamate | 12.1 g | FC(C1=C(C=CC=C1)NC(OC1=CC=CC=C1)=O)(F)F | C14H10F3NO2
reactant | Hydrazine monohydrate | 16.7 mL | O.NN
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | (2-trifluoromethylphenyl)carbamic acid hydrazide | 7.5 g | FC(C1=C(C=CC=C1)NC(=O)NN)(F)F | C8H8F3N3O
